US04810713
4[Bis(4-fluorophenyl)methyl]-1-[3-[4-(methylsulfonyl)phenoxy]propyl]piperidine oxalate [1:1]
A mixture of 6.02 g (0.021 mole) of 4-[bis(4-fluorophenyl)methyl]piperidine and 5.22 g (0.021 mole) of 1-(3-chloropropoxy)-4-(methylsulfonyl)benzene in 350 ml of 1-butanol containing potassium carbonate (5.53 g, 0.04 mole) and potassium iodide (0.2 g) was heated overnight at gentle reflux. The reaction was filtered and stripped to dryness. The residue obtained was dissolved in chloroform and extracted with water. The chloroform layer was dried, filtered, and solvent removed to give an oil. The dark brown oil was converted to the oxalate salt and recrystallized from methanol-diethyl ether to give a white solid. This material was dried in vacuo overnight at 65° C. A yield of 6.21 g (50.1%) of white crystalline solid, m.p. 202°-204° C. was obtained.

reactant | 4-[bis(4-fluorophenyl)methyl]piperidine | 0.021 mole, 6.02 g | FC1=CC=C(C=C1)C(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2N
reactant | 1-(3-chloropropoxy)-4-(methylsulfonyl)benzene | 0.021 mole, 5.22 g | ClCCCOC1=CC=C(C=C1)S(=O)(=O)C | C10H13ClO3S
reactant | potassium carbonate | 0.04 mole, 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.2 g | [I-].[K+]
reactant | 1-butanol | 350 ml | C(CCC)O | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4[Bis(4-fluorophenyl)methyl]-1-[3-[4-(methylsulfonyl)phenoxy]propyl]piperidine oxalate | yield of 6.21 g, 50.1% | C(C(=O)O)(=O)O.FC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=CC=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)F | InChI=1S/C28H31F2NO3S.C2H2O4/c1-35(32,33)27-13-11-26(12-14-27)34-20-2-17-31-18-15-23(16-19-31)28(21-3-7-24(29)8-4-21)22-5-9-25(30)10-6-22;3-1(4)2(5)6/h3-14,23,28H,2,15-20H2,1H3;(H,3,4)(H,5,6)
